Vdd vdd gnd {SUPPLY}

Va A 0 PULSE(0 {SUPPLY} 0 100p 100p 40n 80n)
Vb B 0 PULSE(0 {SUPPLY} 0 100p 100p 20n 40n)

X_xor2check A B Y vdd gnd xor2 


Cload Y gnd 10f

.tran 1n 160n 

.control
run
plot V(A) V(B)+2 V(Y)+4
.endc
.end
